US06165942
Synthesis of 8-(4-bromo-2-fluoro-5-nitrophenyl)-7,8-dihydro-5-trifluoromethylimidazo[1,2-a]pyrimidin-7-one
8-(4-Bromo-2-fluorophenyl)-7,8-dihydro-5-trifluoromethylimidazo[1,2-a]pyrimidin-7-one (12 g) was dissolved into concentrated sulfuric acid (50 ml) to which then nitric acid (60%, d=1.38; 5.0 g) was added under ice-cooled condition, and stirred for 2 hours at room temperature. The reaction solution was poured into ice water and the thus obtained solid was filtered off. The solid was washed with water and dried to give the compound of interest (12.5 g).

reactant | 8-(4-Bromo-2-fluorophenyl)-7,8-dihydro-5-trifluoromethylimidazo[1,2-a]pyrimidin-7-one | 12 g | BrC1=CC(=C(C=C1)N1C=2N(C(=CC1=O)C(F)(F)F)C=CN2)F | C13H6BrF4N3O
reactant | nitric acid | 5.0 g | [N+](=O)(O)[O-] | HNO3
solvent | sulfuric acid | 50 ml | S(O)(O)(=O)=O | H2O4S
product | 8-(4-bromo-2-fluoro-5-nitrophenyl)-7,8-dihydro-5-trifluoromethylimidazo[1,2-a]pyrimidin-7-one | BrC1=CC(=C(C=C1[N+](=O)[O-])N1C=2N(C(=CC1=O)C(F)(F)F)C=CN2)F | C13H5BrF4N4O3
